US07816371B2
a. (R)-Methyl 3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoate
5-Nitro-isochromen-1-one (5 g, 0.03 mol) and D-Valine methyl ester hydrochloride (5 g, 0.03 mol) were refluxed in methanol (40 mL, 1 mol) with triethylamine (5 g, 0.05 mol) for 2 hours. The volatiles were removed via rotovapor, and the residue was purified via flash column chromatography (40 g of silica gel, 0-30% EtOAc/Hexane) to give a brown oil. MS m/z 305.2 (M+H).

reactant | 5-Nitro-isochromen-1-one | 0.03 mol, 5 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | D-Valine methyl ester hydrochloride | 0.03 mol, 5 g | Cl.COC([C@H](N)C(C)C)=O
reactant | methanol | 1 mol, 40 mL | CO | CH4O
reactant | triethylamine | 0.05 mol, 5 g | C(C)N(CC)CC | C6H15N
product | (R)-Methyl 3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoate | CC([C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C15H16N2O5
